US06770637B2
h) [6-Chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine
A solution of 1.26 g (3.55 mmol) [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-carbamic acid tert-butyl ester and 3.34 ml (42.8 mmol) trifluoroacetic acid in 11 ml dichloromethane was stirred at room temperature for 2 h. Addition of 2 M aqueous sodium carbonate solution was followed by extraction with two portions of dichloromethane. The combined organic layers were dried with sodium sulfate and concentrated to give 0.89 g (99%) of the title compound as an off-white solid.

reactant | [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-carbamic acid tert-butyl ester | 3.55 mmol, 1.26 g | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)Cl)=O | C17H18Cl2N2O2
reactant | trifluoroacetic acid | 42.8 mmol, 3.34 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
product | [6-Chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine | 0.89 g, 99% | ClC1=CC(=C(C=N1)NC)C1=C(C=CC=C1)Cl | C12H10Cl2N2
